US04800201
5-methyl-6-(3-ethoxycarbonyl-dihydro-2-thiazolyl)-2H-1,4-thiazin-3(4H)-one
Ethylchloroformate (3.6 g) was added dropwise to a solution of thiazole (5.7 g) in dichloromethane (72 ml) under ice-cooling, and the mixture was stirred for 30 minutes. Then, 5-methyl-2H-1,4-thiazin-3(4H)-one (3.6 g) was added dropwise to the mixture. The reaction mixture was further stirred at ambient temperature for 5 hours. The mixture was washed with 2N hydrochloric acid and successively with water, was dried over anhydrous magnesium sulfate and the solvent was removed. The residue was chromatographed on silica gel (Wakogel C-200) column, using ethyl acetate-n-hexane (=1:1) as an eluant and was recrystallized from ethanol to give the titled compound (1.9 g, yield 23.8%) as white needles.

reactant | Ethylchloroformate | 3.6 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | thiazole | 5.7 g | S1C=NC=C1 | C3H3NS
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 3.6 g | CC=1NC(CSC1)=O | C5H7NOS
solvent | dichloromethane | 72 ml | ClCCl | CH2Cl2
product | 5-methyl-6-(3-ethoxycarbonyl-dihydro-2-thiazolyl)-2H-1,4-thiazin-3(4H)-one | 1.9 g, yield 23.8% | CC=1NC(CSC1C1SCCN1C(=O)OCC)=O | C11H16N2O3S2
